US07910585B2
To a suspension of 1-(3-methoxy-4-nitro-phenyl)-[4,4′]bipiperidinyl (1.75 g, 5.48 mmol), di-tert-butyl-dicarboxylate (1.20 g, 5.48 mmol) in acetonitrile (55 mL), zirconium tetrachloride (128 mg, 0.55 mmol) is added and the mixture is stirred at ambient temperature for 30 min. After water and aqueous sodium hydrogen carbonate are added, the mixture is filtrated and dried to give 1′-(3-Methoxy-4-nitro-phenyl)-[4,4′]bipiperidinyl-1-carboxylic acid tert-butyl ester (5.11 g, 92% yield) as yellow solids.

reactant | 1-(3-methoxy-4-nitro-phenyl)-[4,4′]bipiperidinyl | 5.48 mmol, 1.75 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)C1CCNCC1 | C17H25N3O3
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 55 mL | C(C)#N | C2H3N
catalyst | zirconium tetrachloride | 0.55 mmol, 128 mg | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | 1′-(3-Methoxy-4-nitro-phenyl)-[4,4′]bipiperidinyl-1-carboxylic acid tert-butyl ester | 5.11 g, 92% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C22H33N3O5
